US07332519B2
Azidophosphoric acid diphenyl ester (15.4 g; 56 mmole) and triethylamine (5.66 g; 55 mmole) were added to 8-thiophen-3-yl-1,4-dioxa-spiro[4.5]decane-8-carboxylic acid (15 g; 56 mmole) dissolved in anisole (160 ml). The reaction mixture was heated for 2 hours to 90 to 100° C. On completion of the reaction (reaction monitored by thin layer chromatography), the mixture was purified by column chromatography (silica gel, 10% ethyl acetate in n-hexane). 6 g of 8-isocyanato-8-thiophen-3-yl-1,4-dioxa-spiro[4.5]decane were obtained (41%; colorless liquid).

reactant | Azidophosphoric acid diphenyl ester | 56 mmole, 15.4 g | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(=O)N=[N+]=[N-] | C12H10N3O3P
reactant | triethylamine | 55 mmole, 5.66 g | C(C)N(CC)CC | C6H15N
reactant | 8-thiophen-3-yl-1,4-dioxa-spiro[4.5]decane-8-carboxylic acid | 56 mmole, 15 g | S1C=C(C=C1)C1(CCC2(OCCO2)CC1)C(=O)O | C13H16O4S
solvent | anisole | 160 ml | C1(=CC=CC=C1)OC | C7H8O
product | 8-isocyanato-8-thiophen-3-yl-1,4-dioxa-spiro[4.5]decane | 6 g | N(=C=O)C1(CCC2(OCCO2)CC1)C1=CSC=C1 | C13H15NO3S
